US07723381B2
4-(2-methylthiazol-4-yl)cyclohexylamine (Component 6):
1.10 g (2 mmol) of 9H-fluoren-9-ylmethyl[4-(2-methylthiazol-4-yl)cyclohexyl]carbamate (cis compound) and 15 mL of diethylamine are stirred in 30 mL of THF for 16 hours at ambient temperature. Then the reaction mixture is concentrated by evaporation and the residue is combined with THF and concentrated again by evaporation. The residue is purified by chromatography. Yield: 0.13 g (36%).

reactant | 9H-fluoren-9-ylmethyl[4-(2-methylthiazol-4-yl)cyclohexyl]carbamate | 2 mmol, 1.10 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NC1CCC(CC1)C=1N=C(SC1)C)=O | C25H26N2O2S
reactant | diethylamine | 15 mL | C(C)NCC | C4H11N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-(2-methylthiazol-4-yl)cyclohexylamine | CC=1SC=C(N1)C1CCC(CC1)N | C10H16N2S
